### PR TITLE
feat: Riemannian manifold structure on the round sphere

### PR DESCRIPTION
**Pull request by kbuzzard**
Very much WIP work, containing ideas developed with Merle in der Rieden over the summer of 2026 about putting a Riemannian manifold structure on the round sphere. Some proofs generated by a beginner, some by a more seasoned user, and some with AI. General approach inspired by Zulip discussions e.g. here [#maths > Is this a manifold? @ 💬](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Is.20this.20a.20manifold.3F/near/615624755) . Not intended to be turned into a production PR but I hope that some of the ideas here (in particular the `comap` lemmas pulling back various structures on tangent spaces along immersions) can be refined by me going forwards.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Algebra/merle.lean [hunk 1]
```diff
@@ -0,0 +1,436 @@
...
+
+-- The pullback of a Riemannian metric along a map whose differential splits everywhere.
+-- The hypothesis `∀ x, IsDiffImmersionAt I J f x` (mfderiv has a continuous left inverse) is
+-- exactly what `pos` and `isVonNBounded` need; it follows from `IsImmersion`
+-- (`hf.isDiffImmersionAt`with `n ≠ 0`),
+-- and, when `J`'s model space is finite-dimensional, from injectivity of `mfderiv`
+-- alone (`IsDiffImmersionAt.of_injective_of_finiteDimensional`).
+
+
+noncomputable def RiemannianMetric.comap (hf : ∀ x, IsDiffImmersionAt I J f x)
```
Comment (Deicyde) [inline Mathlib/Analysis/Normed/Algebra/merle.lean:186]: This definitely seems like something we would want for Riemannian Metrics, although I'm not sure if we should use `IsDiffImmersionAt` or `IsImmersion`. I think @grunweg might have more insight about this.

Comment (grunweg) [reply Mathlib/Analysis/Normed/Algebra/merle.lean:186]: We should use `IsImmersion`. `IsDiffImmersionAt` is easier to check in practice, but the wrong definition in general. These definitions are mostly equivalent; we have one direction in mathlib already. The other requires some hypotheses (e.g. around boundary); feel free to state "IsDiffImmersionAt.isImmersionAt" for boundaryless manifolds as a sorry and I'll get to it soon.

Comment (grunweg) [reply Mathlib/Analysis/Normed/Algebra/merle.lean:186]: Mathematically, you can argue that IsDiffImmersionAt is of course conceptually clearer... my counterargument is that we want (almost) all theorems in mathlib to use `IsImmersion` and friends.

File: Mathlib/Analysis/Normed/Algebra/merle.lean [hunk 2]
```diff
@@ -0,0 +1,436 @@
...
+      g := RiemannianMetric.comap I J f hf g.1
+
+
+/-- If `G` is a `C^m` family of bilinear forms on the tangent spaces of `N` and `f : M → N`
+is `C^n` with `m + 1 ≤ n`, then the family of bilinear forms on the tangent spaces of `M` obtained
+by pulling `G` back along `mfderiv f` is `C^m`. -/
+lemma contMDiff_totalSpace_mk_comap_mfderiv [IsManifold I 1 M] [IsManifold J 1 N]
+    {m : WithTop ℕ∞} (hf : ContMDiff I J n f) (hmn : m + 1 ≤ n)
+    {G : (y : N) → TangentSpace J y →L[ℝ] TangentSpace J y →L[ℝ] ℝ}
+    (hG : ContMDiff J (J.prod 𝓘(ℝ, E'' →L[ℝ] E'' →L[ℝ] ℝ)) m
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Algebra/merle.lean:225]: Can you use the new elaborators here? This should be supported on current master, right? (Here and elsewhere, in many places.)

File: Mathlib/Analysis/Normed/Algebra/merle.lean [hunk 3]
```diff
@@ -0,0 +1,436 @@
...
+variable (E : Type*) [NormedAddCommGroup E] [InnerProductSpace ℝ E]
+
+open Metric Module Function Manifold Bundle
+
+open scoped ContDiff RealInnerProductSpace
+
+variable (n : ℕ) [Fact (Module.finrank ℝ E = n + 1)]
+
+-- The round sphere `𝕊ⁿ ⊆ E` inherits the induced Riemannian metric.  We do NOT need
+-- `inclusion_isImmersion`: `E` is finite-dimensional, so the differential of the inclusion splits
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Algebra/merle.lean:360]: Medium-term, I'd say we should prove that split differential and finite-dimensionality implies being in an immersions (and we're close to having this in mathlib). Can you make that a TODO at least?

File: Mathlib/Analysis/Normed/Algebra/merle.lean [hunk 4]
```diff
@@ -0,0 +1,436 @@
...
+  {HB : Type*} [TopologicalSpace HB] {IB : ModelWithCorners ℝ EB HB} {m : WithTop ℕ∞}
+  {B : Type*} [TopologicalSpace B] [ChartedSpace HB B]
+  {F : Type*} [NormedAddCommGroup F] [NormedSpace ℝ F]
+  {V : B → Type*} [TopologicalSpace (TotalSpace F V)] [∀ x, NormedAddCommGroup (V x)]
+  [∀ x, InnerProductSpace ℝ (V x)]
+  [FiberBundle F V] [VectorBundle ℝ F V]
+
+/-- A smooth Riemannian bundle is in particular a continuous Riemannian bundle. This cannot be an
+instance, as `IB` and `m` do not appear in the conclusion. -/
+lemma IsContMDiffRiemannianBundle.isContinuousRiemannianBundle
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Algebra/merle.lean:381]: Are you sure mathlib doesn't have this yet?

File: Mathlib/Analysis/Normed/Algebra/merle.lean [hunk 5]
```diff
@@ -0,0 +1,436 @@
...
+    (h : IsContMDiffRiemannianBundle IB m F V) : IsContinuousRiemannianBundle F V := by
+  obtain ⟨g, g_smooth, hg⟩ := h.exists_contMDiff
+  exact ⟨g, g_smooth.continuous, hg⟩
+
+end
+
+/-- The canonical Riemannian metric on an inner product space varies continuously. Mathlib only
+registers the smooth version (`IsContMDiffRiemannianBundle`), from which typeclass inference
+cannot recover this. -/
+instance instIsContinuousRiemannianBundleTangentSpaceVectorSpace :
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Algebra/merle.lean:391]: Ditto. (We have the smooth case for sure.)

**Review by grunweg — COMMENTED** [review]
Some comments on a quick look. On second thought, I'm not sure which file to look at (if any), so let me stop for now.

**Comment by kbuzzard** [comment]
Yes, sorry, this was not made to be looked at, this was just because I was doing lots of things at once at the Formal conjectures workshop and I wanted to put the roundsphere work somewhere so I wouldn't lose track of it. Please don't review, this is a bunch of scratch files.
